US03952012
5-(p-Toluoyl)-1-methylpyrrole-2-acetonitrile:
To a cooled suspension of 26.6 g. (0.2 mole) aluminum chloride in 80 ml. dichloroethane is added dropwise 30.8 g. (0.2 mole) p-toluoyl chloride. The resulting solution is added dropwise to a solution of 1-methylpyrrole-2-acetonitrile in 80 ml. dichloroethane cooled externally with an ice bath. After the addition, the resulitng solution is stirred at room temperature for twenty minutes and then refluxed for three minutes. The solution is poured into ice acidified with dilute hydrochloric acid. The organic and aqueous fractions are separated. The aqueous fraction is extracted once with chloroform. The organic fractions are combined and washed successively with N,N-dimethyl-1,3-propanediamine, dilute hydrochloric acid, saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic fraction is dried over anhydrous magnesium sulfate. The solvent is then evaporated off. Upon trituration of the residue with methanol, a solid crystallizes, 5 -p-toluoyl)-1-methylpyrrole-2-acetonitrile, which is removed by filtration and purified by recrystallization from benzene. Additional product is isolated from the mother liquors which are combined, concentrated in vacuo and the resulting oily residue column chromatographed on neutral alumina using hexane, benzene and ether as successive solvents. The product is isolated by concentrating in vacuo the first few major compound-bearing fractions (10% ether in benzene). The solids are combined and recrystallized from methanol and then from benzenehexane, m.p. 102°-105°C.

reactant | aluminum chloride | 0.2 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | p-toluoyl chloride | 0.2 mole | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | 1-methylpyrrole-2-acetonitrile | CN1C(=CC=C1)CC#N | C7H8N2
reactant | hydrochloric acid | Cl | ClH
product | 5-(p-Toluoyl)-1-methylpyrrole-2-acetonitrile | C1(=CC=C(C=C1)C(=O)C1=CC=C(N1C)CC#N)C | C15H14N2O
